US07208495B2
4-(4-fluorophenyl)-1-(2,2,4,6,7-pentamethyl-3-(pyrrolidinyl)-2,3-dihydro-1-benzofuran-5-yl)piperazine hydrochloride
Sodium borohydride (106 mg, 2.8 mmol) was added to a solution of 5-(4-(4-fluorophenyl)piperazin-1-yl)-2,2,4,6,7-pentamethyl-1-benzofuran-3(2H)-one (268 mg, 0.7 mmol) obtained in Reference Example 45 in THF (1.5 mL) and methanol (4.5 mL) at room temperature and stirred for 16 hours. The resulting mixture was cooled with ice, made to acidic by 1N hydrochloric acid, and extracted with ethyl acetate. The organic extract was washed with saturated aqueous sodium bicarbonate and saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (hexane/ethyl acetate=4/1). The obtained crystals and triethylamine (0.084 mL, 0.6 mmol) were dissolved in dichloromethane (1 ml), and then methane sulfonyl chloride (0.023 mL, 0.3 mmol) was added under ice cooling. The reaction mixture was stirred for 30 minutes with ice cooling. To the mixture was added pyrrolidine (0.125 mL, 1.5 mmol). After stirring for 1 hour under ice cooling, the resulting mixture was diluted with saturated aqueous sodium bicarbonate and extracted with ethyl acetate. The organic extract was washed with water and saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (hexane/ethyl acetate=1/1) and it was treated with a solution of hydrogenchloride in ethyl acetate to obtain 27 mg (yield 8%) of the title compound.

reactant | Sodium borohydride | 2.8 mmol, 106 mg | [BH4-].[Na+]
reactant | 5-(4-(4-fluorophenyl)piperazin-1-yl)-2,2,4,6,7-pentamethyl-1-benzofuran-3(2H)-one | 0.7 mmol, 268 mg | FC1=CC=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(C(C(O2)(C)C)=O)C1C)C)C | C23H27FN2O2
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | triethylamine | 0.6 mmol, 0.084 mL | C(C)N(CC)CC | C6H15N
reactant | methane sulfonyl chloride | 0.3 mmol, 0.023 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyrrolidine | 1.5 mmol, 0.125 mL | N1CCCC1 | C4H9N
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 4.5 mL | CO | CH4O
product | 4-(4-fluorophenyl)-1-(2,2,4,6,7-pentamethyl-3-(pyrrolidinyl)-2,3-dihydro-1-benzofuran-5-yl)piperazine hydrochloride | 27 mg, yield 8% | Cl.FC1=CC=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(C(C(O2)(C)C)N2CCCC2)C1C)C)C | InChI=1S/C27H36FN3O.ClH/c1-18-19(2)25-23(26(27(4,5)32-25)31-12-6-7-13-31)20(3)24(18)30-16-14-29(15-17-30)22-10-8-21(28)9-11-22;/h8-11,26H,6-7,12-17H2,1-5H3;1H
